US05057531
9.2 g of sodium hydroxide are added to a solution of 16.8 g of 1,2,4-triazole in 150 ml of N-methylpyrrolidone and the mixture is heated at 50° C. for 30 minutes. After the reaction mixture has been cooled to room temperature, 73.1 g of Z-1-(4-chlorophenyl)-2-(4-methylphenylsulfonyloxymethyl)-4,4-dimethylpent-1-ene, dissolved in 100 ml of N-methylpyrrolidone, are slowly added dropwise to the solution and stirring is carried out for 12 hours at room temperature. Thereafter, 200 ml of water are added and the mixture is extracted several times with methyl tert-butyl ether, and the organic phase is washed twice with water, dried over sodium sulfate and evaporated down. The remaining residue is chromatographed over silica gel using 9:1 n-hexane/ethyl acetate to give 38 g (71%) of Z-1-(4-chlorophenyl)-2-(1,2,4-triazol-1-ylmethyl)-4,4-dimethylpent-1-ene, which can be crystallized from methyl tert-butyl ether/n-hexane (mp.: 81°-84° C., compound No. A1).

reactant | sodium hydroxide | 9.2 g | [OH-].[Na+]
reactant | 1,2,4-triazole | 16.8 g | N1N=CN=C1 | C2H3N3
reactant | Z-1-(4-chlorophenyl)-2-(4-methylphenylsulfonyloxymethyl)-4,4-dimethylpent-1-ene | 73.1 g | ClC1=CC=C(C=C1)\C=C(\CC(C)(C)C)/COS(=O)(=O)C1=CC=C(C=C1)C | C21H25ClO3S
reactant | water | 200 ml | O | H2O
solvent | N-methylpyrrolidone | 150 ml | CN1C(CCC1)=O | C5H9NO
solvent | N-methylpyrrolidone | 100 ml | CN1C(CCC1)=O | C5H9NO
product | Z-1-(4-chlorophenyl)-2-(1,2,4-triazol-1-ylmethyl)-4,4-dimethylpent-1-ene | 38 g, 71% | ClC1=CC=C(C=C1)\C=C(\CC(C)(C)C)/CN1N=CN=C1 | C16H20ClN3
